US05929072
To a 500 ml 3-necked round bottom flask equipped with reflux condenser, thermometer, magnetic stirrer bar and nitrogen bubbler was charged 2-amino-N-(1-methylethyl)-benzylamine (148.0 g, 0.907 mol), sulfamide (87.9 g, 0.907 mol) and pyridine (975 ml) and the stirred solution heated at reflux for 5 hours under nitrogen (reaction followed by GC and HPLC). The reaction mixture allowed to cool, then pyridine removed under reduced pressure. The residue was dissolved in 5N hydrochloric acid (1000 ml) and ethyl acetate (1000 ml) and the acidic layer was extracted with further ethyl acetate (5×1000 ml). The combined organic layer was washed with 5N hydrochloric acid (250 ml), then extracted with 2N sodium hydroxide (3×1000 ml), the combined aqueous layer washed with diethyl ether (2×500 ml). Ice was then added to the aqueous layer, followed by addition of 5N hydrochloric acid with cooling and stirring of the suspension to pH 1. The oily suspension was stirred at room temperature overnight, the solid filtered and dried at room temperature under vacuum to leave an off-white solid, 3,4-dihydro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide.

reactant | 2-amino-N-(1-methylethyl)-benzylamine | 0.907 mol, 148.0 g | NC1=C(CNC(C)C)C=CC=C1 | C10H16N2
reactant | sulfamide | 0.907 mol, 87.9 g | S(=O)(=O)(N)N | H4N2O2S
solvent | pyridine | 975 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dihydro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | CC(C)N1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H14N2O2S
